US08119661B2
Step B. The preparation of tert-butyl N-[(1S,2R)-2-(cyanomethyl)cyclohexyl]carbamate
A solution of tert-butyl N-[(1S,2S)-2-(methylsulfonyloxymethyl)cyclohexyl]carbamate (1.8 g) in dry DMSO was added with potassium cyanide (0.52 g, 7.76 mL) and the mixture was then heated at 90° C. under N2 for 4 hours. The mixture was cooled and then poured on to water (50 mL) and extracted with ether (3×30 mL). The combined organic phases were washed with brine and concentrated in vacuo to provide the title compound.

reactant | tert-butyl N-[(1S,2S)-2-(methylsulfonyloxymethyl)cyclohexyl]carbamate | 1.8 g | CS(=O)(=O)OC[C@@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C13H25NO5S
reactant | potassium cyanide | 7.76 mL, 0.52 g | [C-]#N.[K+]
reactant | water | 50 mL | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | tert-butyl N-[(1S,2R)-2-(cyanomethyl)cyclohexyl]carbamate | C(#N)C[C@@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C13H22N2O2
